US07151105B2
Preparation of ethyl (5R)-7-[4-(1-cyano-1-methylethyl)-3-fluorophenyl]-5-cyclopentyl-5-hydroxy-3-oxoheptanoate
A 1-L, 3-neck flask was charged with CDI (29.00 g, 0.179 moles), DMAP (733 mg, 0.006 moles), and MTBE (70 mL) (notes 1, 2). An MTBE solution of (3R)-5-[4-(1-cyano-1-methylethyl)-3-fluorophenyl]-3-cyclopentyl-3-hydroxypentanoic acid (41.28 g, 0.119 moles, 170 mL) was added to the stirred mixture over a 30 minute period. The addition funnel was rinsed with THF (5 mL) and the rinse was added to the reaction mixture. The mixture was stirred for 30 min and an aliquot was removed and analyzed by HPLC. Once acyl-imidazole formation was complete, the solution was added to a 500 mL addition funnel. A separate 1-L, 3-neck flask was charged with ethyl magnesium malonate (51.30 g, 0.179 moles) and THF (100 mL) (the solids did not dissolve in THF, even after warming to 40° C.). The stirred mixture was heated to 40° C. and the acyl-imidazole solution was slowly added to the mixture. Stirring was continued at 40° C., and aliquots were periodically removed and analyzed by HPLC for completion. After the reaction was complete, heating was discontinued and the solution allowed to cool to rt. The solution was diluted with IPE (200 mL) and 1 N HCl (360 mL), the mixture was stirred for 15 minutes, and the phases were separated. The organic phase was extracted with H2O (10 mL), the phases separated, and the organic layer was added to a 1-L, 3-neck flask. The solution was distilled to a minimum of ˜3.3 volumes to remove H2O (the distillate temperature was 48° C. during azeotrope distillation and the distillation was ended after the distillate temperature was steady at ˜50° C.). The solution was used directly in the next step.

reactant | CDI | 0.179 moles, 29.00 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | MTBE | 70 mL | CC(C)(C)OC | C5H12O
reactant | (3R)-5-[4-(1-cyano-1-methylethyl)-3-fluorophenyl]-3-cyclopentyl-3-hydroxypentanoic acid | 0.119 moles, 170 mL, 41.28 g | C(#N)C(C)(C)C1=C(C=C(C=C1)CC[C@](CC(=O)O)(O)C1CCCC1)F | C20H26FNO3
reactant | ethyl magnesium malonate | 0.179 moles, 51.30 g | C(CC(=O)[O-])(=O)[O-].C(C)[Mg+2]
catalyst | DMAP | 0.006 moles, 733 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl (5R)-7-[4-(1-cyano-1-methylethyl)-3-fluorophenyl]-5-cyclopentyl-5-hydroxy-3-oxoheptanoate | C(#N)C(C)(C)C1=C(C=C(C=C1)CC[C@](CC(CC(=O)OCC)=O)(O)C1CCCC1)F | C24H32FNO4
